US08975415B2
Under argon atmosphere, a mixture of di-tert-butyl [6′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate (213 mg, 0.372 mmol), 3-bromo-5-(3-methoxyprop-1-yn-1-yl)pyridine (252 mg, 1.12 mmol), Na2CO3 (158 mg, 1.49 mmol), tetrakis(triphenylphosphine)palladium(0) (21.5 mg, 0.019 mmol), dioxane (3.4 mL) and water (0.85 mL) was stirred for 3 hours at 110° C. The reaction mixture was cooled down to ambient temperature, and water was added to the mixture. The mixture was extracted with MeOH—CHCl3 (1:9), and the organic layer was dried over Na2SO4 prior to filtration. The filtrate was concentrated at reduced pressure to give crude di-tert-butyl {6′-[5-(3-methoxyprop-1-yn-1-yl)pyridin-3-yl]dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl}imidodicarbonate, which was used for the next reaction without further purification.

reactant | di-tert-butyl [6′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate | 0.372 mmol, 213 mg | CC1(OB(OC1(C)C)C=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1)C | C29H41BN2O9
reactant | 3-bromo-5-(3-methoxyprop-1-yn-1-yl)pyridine | 1.12 mmol, 252 mg | BrC=1C=NC=C(C1)C#CCOC | C9H8BrNO
reactant | Na2CO3 | 1.49 mmol, 158 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 3.4 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.019 mmol, 21.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 0.85 mL | O | H2O
product | di-tert-butyl {6′-[5-(3-methoxyprop-1-yn-1-yl)pyridin-3-yl]dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl}imidodicarbonate | COCC#CC=1C=C(C=NC1)C=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1 | C32H37N3O8
